US08097637B2
Step 6: Trans-{1-[2-(4-Amino-cyclohexyl)-ethyl]-piperidin-4-yl}-(4-fluoro-phenyl)-methanone hydrochloride
Trans-(4-{2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester (1.4 g, 3.24 mmol) was dissolved in 2 ml dichloromethane and 4N HCl in dioxane (9.7 ml, 38.8 mmol) was added. The white suspension was stirred for 4 hours at room temperature, diluted with diisopropylether and filtered. The crystals were washed with diisopropylether and dried for 2 hours at 50° C. and <20 mbar, to get the desired salt as a white solid (1.2 g, 100%) [MS: m/e=333.3 (M+H+)].

reactant | Trans-(4-{2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester | 3.24 mmol, 1.4 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)=O | C25H37FN2O3
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 38.8 mmol, 9.7 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | diisopropylether | C(C)(C)OC(C)C | C6H14O
product | Trans-{1-[2-(4-Amino-cyclohexyl)-ethyl]-piperidin-4-yl}-(4-fluoro-phenyl)-methanone hydrochloride | 1.2 g, 100% | Cl.N[C@@H]1CC[C@H](CC1)CCN1CCC(CC1)C(=O)C1=CC=C(C=C1)F | InChI=1S/C20H29FN2O.ClH/c21-18-5-3-16(4-6-18)20(24)17-10-13-23(14-11-17)12-9-15-1-7-19(22)8-2-15;/h3-6,15,17,19H,1-2,7-14,22H2;1H/t15-,19-;
